US07495103B2
A mixture of 1-tert-butyl-2-methoxy-5-bromo-4-nitrobenzene (867 mg, 3.0 mmol), KF (348 mg, 6 mmol), KBr (714 mg, 6 mmol), CuI (684 mg, 3.6 mmol), methyl chlorodifluoroacetate (2.2 mL, 21.0 mmol) in DMF (5 mL) was stirred at 125° C. in a sealed tube overnight, cooled to room temperature, diluted with water and extracted three times with EtOAc. The combined organic layers were washed with brine and dried over anhydrous MgSO4. After removal of the solvent, the residue was purified by column chromatography (0-5% EtOAc-Hexane) to yield 1-tert-butyl-2-methoxy-5-(trifluoromethyl)-4-nitrobenzene (512 mg, 61%). 1H NMR (400 MHz, CDCl3) δ 7.60 (s, 1H), 7.29 (s, 1H), 3.90 (s, 3H), 1.33 (s, 9H).

reactant | 1-tert-butyl-2-methoxy-5-bromo-4-nitrobenzene | 3.0 mmol, 867 mg | C(C)(C)(C)C1=C(C=C(C(=C1)Br)[N+](=O)[O-])OC | C11H14BrNO3
reactant | KF | 6 mmol, 348 mg | [F-].[K+]
reactant | KBr | 6 mmol, 714 mg | [K+].[Br-]
reactant | methyl chlorodifluoroacetate | 21.0 mmol, 2.2 mL | ClC(C(=O)OC)(F)F | C3H3ClF2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | CuI | 3.6 mmol, 684 mg | [Cu]I
product | 1-tert-butyl-2-methoxy-5-(trifluoromethyl)-4-nitrobenzene | 512 mg, 61% | C(C)(C)(C)C1=C(C=C(C(=C1)C(F)(F)F)[N+](=O)[O-])OC | C12H14F3NO3
